US07977370B2
1-butyl-4,4-bis(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexylamine (Example No. 34)
5-fluoroskatole (670 mg, 4.49 mmol) together with 2-(2-(2-(4-butyl-4-dimethylaminocyclohex-1-enyl)-1H-indol-3-yl)-ethyl)isoindol-1,3-dione (700 mg, 1.49 mmol) was dissolved in abs. dichloromethane (5 ml) and mixed with trifluoromethane sulphonic acid (0.175 ml, 1.974 mmol). The batch was stirred for 10 d at 24° C. The precipitated light beige-coloured solid was separated by filtration and washed with dichloromethane (3×0.5 ml). The solid (1031 mg) was stirred for 10 min with 1N sodium hydroxide solution (20 ml) and dichloromethane (20 ml). The phases were separated. The aqueous phase was extracted with dichloromethane (2×20 ml). The combined organic extracts were dried over Na2SO4 and then concentrated to low volume. The product was purified by column chromatography.

reactant | 5-fluoroskatole | 4.49 mmol, 670 mg | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
reactant | 2-(2-(2-(4-butyl-4-dimethylaminocyclohex-1-enyl)-1H-indol-3-yl)-ethyl)isoindol-1,3-dione | 1.49 mmol, 700 mg | C(CCC)C1(CC=C(CC1)C=1NC2=CC=CC=C2C1CCN1C(C2=CC=CC=C2C1=O)=O)N(C)C | C30H35N3O2
reactant | trifluoromethane sulphonic acid | 1.974 mmol, 0.175 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-butyl-4,4-bis(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexylamine | C(CCC)C1(CCC(CC1)(C=1NC2=CC=C(C=C2C1C)F)C=1NC2=CC=C(C=C2C1C)F)N(C)C | C30H37F2N3
